US05856561
In a solvent mixture of 75 grams of THF and 75 grams of methylene chloride was dissolved 30.9 grams (0.09 mol) of tert-butyl 4,4-bis(4'-hydroxyphenyl)valerate. With stirring, 38.9 grams (0.54 mol) of ethyl vinyl ether was added dropwise while the mixture was cooled with an ice bath so that the temperature would not exceed 10° C. After the reaction mixture was stirred for a further 20 minutes, 2.0 grams (8 mmol) of p-toluenesulfonic acid monohydrate was added and dissolved, with the mixture kept cooled so that the reaction temperature would not exceed 10° C. The ice bath was removed and the reaction mixture was stirred for 1.5 hours at room temperature. The reaction solution was cooled with ice, and 201 grams of a 0.6% sodium hydrogen carbonate aqueous solution was added to neutralize the acid for terminating the reaction. The organic layer was separated and the solvent was distilled off in vacuo, obtaining an oily product. The oily product was purified by silica gel column chromatography (eluting solvent: chloroform), isolating tert-butyl 4,4-bis(4'-(1"-ethoxyethoxy)phenyl)valerate. Amount 24.1 grams, yield 54.9%, purity 95.7%.

reactant | THF | 75 grams | C1CCOC1 | C4H8O
reactant | tert-butyl 4,4-bis(4'-hydroxyphenyl)valerate | 0.09 mol, 30.9 grams | OC1=CC=C(C=C1)C(CCC(=O)OC(C)(C)C)(C)C1=CC=C(C=C1)O | C21H26O4
reactant | ethyl vinyl ether | 0.54 mol, 38.9 grams | C(=C)OCC | C4H8O
reactant | p-toluenesulfonic acid monohydrate | 8 mmol, 2.0 grams | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | methylene chloride | 75 grams | C(Cl)Cl | CH2Cl2
product | tert-butyl 4,4-bis(4'-(1"-ethoxyethoxy)phenyl)valerate | yield 54.9% | C(C)OC(C)OC1=CC=C(C=C1)C(CCC(=O)OC(C)(C)C)(C)C1=CC=C(C=C1)OC(C)OCC | C29H42O6
